US07517873B2
To a mixture of 0.277 g (0.00061 mole) of (rac)-4-(4-cyclopentyl-9-methyl-10-oxo-1,2,3,3a,4,9,10,10a-octahydro-4,5,7,9-tetraaza-benzo[f]azulen-6-ylamino)-3-methoxy-benzoic acid, 0.129 g (0.00092 mole) of 1-hydroxy-1H-benzotriazole, 0.505 g (0.00092 mole) of benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate, 0.404 g (0.00306 mole) of ethyldiisopropylamine and 40 mL of dimethylformamide was added 0.150 g (0.00092 mole) of 4-amino-1-methyl piperidine. The mixture was stirred overnight at room temperature, then diluted with water and extracted twice with ethyl acetate. The combined ethyl acetate extracts were washed successively with water and then brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (Waters X-terra column), eluting with a gradient of acetonitrile −0.004 M aqueous ammonium acetate to give 0.070 g of (rac)-4-(4-cyclopentyl-9-methyl-10-oxo-1,2,3,3a,4,9,10,10a-octahydro-4,5,7,9-tetraaza-benzo[f]azulen-6-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-68) as a white solid.

reactant | (rac)-4-(4-cyclopentyl-9-methyl-10-oxo-1,2,3,3a,4,9,10,10a-octahydro-4,5,7,9-tetraaza-benzo[f]azulen-6-ylamino)-3-methoxy-benzoic acid | 0.00061 mole, 0.277 g | C1(CCCC1)N1C2CCCC2C(N(C2=C1N=C(N=C2)NC2=C(C=C(C(=O)O)C=C2)OC)C)=O | C24H29N5O4
reactant | 1-hydroxy-1H-benzotriazole | 0.00092 mole, 0.129 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.00092 mole, 0.505 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | ethyldiisopropylamine | 0.00306 mole, 0.404 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-1-methyl piperidine | 0.00092 mole, 0.150 g | NC1CCN(CC1)C | C6H14N2
solvent | water | O | H2O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | (rac)-4-(4-cyclopentyl-9-methyl-10-oxo-1,2,3,3a,4,9,10,10a-octahydro-4,5,7,9-tetraaza-benzo[f]azulen-6-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.070 g | C1(CCCC1)N1C2CCCC2C(N(C2=C1N=C(N=C2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC)C)=O | C30H41N7O3
